US07989628B2
(5-Bromo-quinolin-2-yl)-(5-methyl-furan-2-ylmethyl)-amine (400 mg, 1.3 mmol) was dissolved in 4 mL N,N-dimethylformamide. Triethylamine (167 mg, 1.7 mmol), methyl-3-butenoate (173 mg, 1.7 mmol), tri-ortho-tolylphosphin (31 mg, 0.1 mmol) and palladium acetate (11 mg, 0.05 mmol) were added. The reaction mixture was heated at 120° C. for 1 hour and quenched by addition of 50 mL water. The mixture was extracted three times with ethyl acetate (100 mL each). The organic phases were pooled, dried with sodium sulfate, filtered and evaporated. The residue was purified by flash chromatography on silica gel (heptane/ethyl acetate 100:0->75:25 gradient). (E)-4-{2-[(5-Methyl-furan-2-ylmethyl)-amino]-quinolin-5-yl}-but-3-enoic acid methyl ester was obtained as a yellow oil (294 mg, 69%), MS: m/e=337.4 (M+H+).

reactant | (5-Bromo-quinolin-2-yl)-(5-methyl-furan-2-ylmethyl)-amine | 1.3 mmol, 400 mg | BrC1=C2C=CC(=NC2=CC=C1)NCC=1OC(=CC1)C | C15H13BrN2O
reactant | Triethylamine | 1.7 mmol, 167 mg | C(C)N(CC)CC | C6H15N
reactant | methyl-3-butenoate | 1.7 mmol, 173 mg | COC(CC=C)=O | C5H8O2
reactant | tri-ortho-tolylphosphin | 0.1 mmol, 31 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 0.05 mmol, 11 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (E)-4-{2-[(5-Methyl-furan-2-ylmethyl)-amino]-quinolin-5-yl}-but-3-enoic acid methyl ester | COC(C\C=C\C1=C2C=CC(=NC2=CC=C1)NCC=1OC(=CC1)C)=O | C20H20N2O3
